US08309730B2
To a stirred solution of methyl thiophene-2-carboxylate (0.46 mL, 4 mmol) in anhydrous methylene chloride (5 mL) was added iodine (510 mg, 2 mmol) followed by [bis(trifluoroacetoxy)iodo]benzene (900 mg, 2.1 mmol). The reaction mixture was stirred at RT for 1.5 hr before saturated aqueous sodium bicarbonate solution (10 mL) and saturated aqueous sodium thiosulfate solution (2 mL) were added. The mixture was then stirred at RT for 20 min. The aqueous layer was separated and extracted with methylene chloride (2×1 mL). The combined organic solutions were dried (Na2SO4). Silica gel flash chromatography (0-100% ethyl acetate in hexanes) gave methyl 5-iodothiophene-2-carboxylate (500 mg, 1.9 mmol, 47% yield) as a solid.

reactant | methyl thiophene-2-carboxylate | 4 mmol, 0.46 mL | S1C(=CC=C1)C(=O)OC | C6H6O2S
reactant | iodine | 2 mmol, 510 mg | II | I2
reactant | [bis(trifluoroacetoxy)iodo]benzene | 2.1 mmol, 900 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 2 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-iodothiophene-2-carboxylate | 1.9 mmol, 500 mg, 47% yield | IC1=CC=C(S1)C(=O)OC | C6H5IO2S
